US05616586
4) 6-Bromo-2-methoxycarbonylmethyltetrahydroquinoline
In a mixture of aqueous solution of potassium carbonate (30 g) and ethyl acetate was dispersed 2-methoxycarbonylmethyltetrahydroquinoline hydrochloride (24.8 g, 0.1 mol). The organic layer was separated, dried over magnesium sulfate, and concentrated. The residue was dissolved in DMF (400 mL) and a solution of N-bromosuccinimide (21.36 g, 0.12 mol)in DMF (400 mL) was added dropwise at 0° C. The mixture was stirred for 5 h at room temperature, poured into water (250 mL), and extracted with ether (250 mL). The organic layer was washed with water, dried over magnesium sulfate, and concentrated to give 36 g of the crude title compound (quant) which was used for the next step without purification. The specimen for characterization was obtained by silica gel column chromatography of the crude compound with 1:1 dichloromethane/hexane to 100% dichloromethane: 1H NMR (270 MHz, CDCl3) δ7.02~7.06 (m, 2H), 6.38 (dd, 1H, J=1.7, 7.3 Hz), 4.53 (br, 1H), 3.75 (s, 3H), 3.72~3.75 (m, 4H), 2.70~2.85 (m, 2H), 2.49~2.53 (m, 1H), 1.89~1.99 (m, 1H), 1.61~1.75 (m, 1H),

reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 2-methoxycarbonylmethyltetrahydroquinoline hydrochloride | 0.1 mol, 24.8 g | Cl.COC(=O)CC1NC2=CC=CC=C2CC1
reactant | N-bromosuccinimide | 0.12 mol, 21.36 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
solvent | water | 250 mL | O | H2O
product | 6-Bromo-2-methoxycarbonylmethyltetrahydroquinoline | BrC=1C=C2CCC(NC2=CC1)CC(=O)OC | C12H14BrNO2
